US05849758
A mixture of 2-bromo-6-fluoro-4-methylpyridine (9.5 g, 50 mmol), 4-fluorobenzeneboronic acid (7.8 g, 56 mmol), sodium bicarbonate (12.6 g, 150 mmol), water (200 mL) and catalytic amounts of tetrakis(triphenylphosphine)palladium(0) in DME under nitrogen is heated to reflux overnight. After filtration of the reaction mixture the solvents are removed under reduced pressure. The residue is partitioned between water and ethyl acetate. The layers are separated and the aqueous layer is washed with ethyl acetate. After drying of the combined organic layers with anhydrous magnesium sulphate, the solvent is removed in vacuo. The crude product is purified by flash column chromatography (silica gel, pentane/ethyl acetate 9/1) yielding colorless crystals of 2-fluoro-6-(4'-fluorophenyl)-4-methylpyridine (3.7 g, 36.1% of th.) with mp 49° C.

reactant | 2-bromo-6-fluoro-4-methylpyridine | 50 mmol, 9.5 g | BrC1=NC(=CC(=C1)C)F | C6H5BrFN
reactant | 4-fluorobenzeneboronic acid | 56 mmol, 7.8 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium bicarbonate | 150 mmol, 12.6 g | C([O-])(O)=O.[Na+]
reactant | water | 200 mL | O | H2O
solvent | DME | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-6-(4'-fluorophenyl)-4-methylpyridine | 3.7 g, 36.1% | FC1=NC(=CC(=C1)C)C1=CC=C(C=C1)F | C12H9F2N
